US07488831B2
Synthesis of 4-[(3-cyano-5-hydroxy-1-phenylpyrazol-4-yl)-methylsulfonyl]toluene
3-Cyano-5-hydroxy-1-phenylpyrazole (1.8 g (10 mmol)) synthesized in Reference Example 5 and 0.6 g (15 mmol) of sodium hydroxide were dissolved in 10 mL of water. While stirring the resulting solution at room temperature, 1.7 g (20 mmol) of a 35% formalin solution was added dropwise thereto, followed by stirring at the same temperature for 1 hour. Subsequently, 1.8 g (10 mmol) of sodium p-toluenesulfinate was charged thereto at room temperature, and the obtained mixture was stirred for 2 hours. After the reaction, 5.0 g (50 mmol) of 35% hydrochloric acid was added dropwise thereto, 20 mL of water was further added, and the precipitated crystal was collected by filtration, washed twice with 20 mL of water and dried by a hot air drier to obtain 3.0 g (yield: 85.7%) of the title compound as a pale yellow crystal.

reactant | 3-Cyano-5-hydroxy-1-phenylpyrazole | 10 mmol, 1.8 g | C(#N)C1=NN(C(=C1)O)C1=CC=CC=C1 | C10H7N3O
reactant | sodium hydroxide | 15 mmol, 0.6 g | [OH-].[Na+]
reactant | formalin | C=O | CH2O
reactant | sodium p-toluenesulfinate | 10 mmol, 1.8 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | hydrochloric acid | 50 mmol, 5.0 g | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 4-[(3-cyano-5-hydroxy-1-phenylpyrazol-4-yl)-methylsulfonyl]toluene | 3.0 g, yield: 85.7% | C(#N)C1=NN(C(=C1CS(=O)(=O)C1=CC=C(C=C1)C)O)C1=CC=CC=C1 | C18H15N3O3S
